US06486316B1
2-Chloro-4,6-bis(2,4-dimethylphenyl)-1,3,5-triazine was prepared by allowing to react 1 eq of cyanuric chloride with 1.9 eq of m-xylene in the presence of 3 eq of aluminum chloride and concentrated HCl in chlorobenzene as discussed above.

reactant | cyanuric chloride | 1 eq | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | m-xylene | 1.9 eq | C1(=CC(=CC=C1)C)C | C8H10
reactant | aluminum chloride | 3 eq | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 2-Chloro-4,6-bis(2,4-dimethylphenyl)-1,3,5-triazine | ClC1=NC(=NC(=N1)C1=C(C=C(C=C1)C)C)C1=C(C=C(C=C1)C)C | C19H18ClN3
